US07470679B2
tert-Butyl 4-(5-hydroxy-3-phenyl-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate
Acetophenone oxime (180 mg, 1.3 mmol) was dissolved in tetrahydrofuran (15 mL). Mixture was cooled to 0° C. 2.0M Butyllithium in pentanes (1.35 mL, 2.7 mmol) was added to the mixture drop-wise. Reaction stirred at 0° C. for 1 hour. A solution of tert-Butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (360 mg, 1.3 mmol) in tetrahydrofuran (5 mL) was added to the reaction mixture drop-wise. Reaction stirred at 0° C. for 1 hour. Reaction was quenched with aqueous ammonium chloride. Mixture was extracted 2× ethyl acetate. Combined extracts were dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as clear colorless oil in 71% yield. MS m/e (M−H)−=345.1.

reactant | Acetophenone oxime | 1.3 mmol, 180 mg | C(C)(C1=CC=CC=C1)=NO | C8H9NO
reactant | Butyllithium | 2.0M | C(CCC)[Li]
reactant | tert-Butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 1.3 mmol, 360 mg | CON(C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(5-hydroxy-3-phenyl-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate | 71% yield | OC1(CC(=NO1)C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H26N2O4
